US04659516
The process described in the first two paragraphs of Example 1 was repeated except that 11-(17β-acetoxy-3-hydroxyoestra-1,3,5(10),6-tetraen-7-yl)undecanoic acid and N-methyl-N-butylamine were used as starting materials. There was thus obtained as an oil N-n-butyl-N-methyl-11-(3,17β-dihydroxyoestra-1,3,5(10),6-tetraen-7-yl)undecanamide, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | 11-(17β-acetoxy-3-hydroxyoestra-1,3,5(10),6-tetraen-7-yl)undecanoic acid | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C(=CC=3C=C(C=CC3[C@H]1CC2)O)CCCCCCCCCCC(=O)O | C31H44O5
reactant | N-methyl-N-butylamine | CNCCCC | C5H13N
product | N-n-butyl-N-methyl-11-(3,17β-dihydroxyoestra-1,3,5(10),6-tetraen-7-yl)undecanamide | C(CCC)N(C(CCCCCCCCCCC=1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)O)=O)C | C34H53NO3
